US07696200B2
A solution of hydroxylamine hydrochloride (90 mg, 1.3 mmol) in dimethyl sulfoxide (1.25 mL) was treated with triethylamine (131 mg, 0.18 mL, 1.3 mmol) and stirred at room temperature for 5 min. The solids were filtered off, and 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid (4-cyano-phenyl)-amide (125 mg, 0.26 mmol) was added. The mixture was stirred at 75° C. for 1.5 hours. After cooling back to room temperature, the mixture was diluted with water and extracted with ethyl acetate. The organic phase was extracted three times with 0.5N HCl. The combined acidic aqueous layer was then rebasified with 1N NaOH and extracted three times with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate and evaporated. 4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid [4-(N-hydroxycarbamimidoyl)-phenyl]-amide was obtained as a white solid, 97 mg (73%), MS (ISP): m/e=517.0 (M+H+.).

reactant | hydroxylamine hydrochloride | 1.3 mmol, 90 mg | Cl.NO
reactant | triethylamine | 1.3 mmol, 0.18 mL, 131 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid (4-cyano-phenyl)-amide | 0.26 mmol, 125 mg | C(#N)C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C23H18ClN3O5S
solvent | dimethyl sulfoxide | 1.25 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(5-Chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid [4-(N-hydroxycarbamimidoyl)-phenyl]-amide | ONC(=N)C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C23H21ClN4O6S
